US06362335B1
4-Hydrazino-2, 5-dimethoxypyrimidine (8.522 g, 0.050 mole) was loaded into a 500 mL three necked flask equipped with an overhead stirrer, condenser, and thermocouple temperature probe. IPA (100 mL) was added and the mixture was stirred to form a slurry. A solution of cyanogen bromide (8.546 g, 0.081 mole) in acetonitrile (15 mL) was added, resulting in a 3° C. endotherm, followed by a 6° C. exotherm. The mixture wash heated to 42° C. for 3.5 h, then cooled to room temperature. A solution of sodium carbonate (5.92 g) in water (100 mL) was added, and the resulting mixture was stirred for 3.3 h. The product precipitated from the solution an d was recovered by filtration through Whatman #54 paper using a Buchner funnel and aspirator vacuum. The solids w ere dried overnight in vacuo at room temperature to give 8.516 g of 3-amino-5,8-dimethoxy[1,2,4]triazolo[4,3-c]pyrimidine (yield=87.1%): mp=232-235° C. 1H NMR (300 MHz, DMSO-d6) 3.83 (s, 3H), 3.97 (s, 3H), 6.45 (br s, 2H), 6.84 (s, 1H); 13C NMR (75.47 MHz, DMSO-d6) 55.4, 56.4, 115.5, 139.7, 142.0, 142.5, 148.3.

reactant | 4-Hydrazino-2, 5-dimethoxypyrimidine | 0.050 mole, 8.522 g | N(N)C1=NC(=NC=C1OC)OC | C6H10N4O2
reactant | IPA | 100 mL | CC(C)O | C3H8O
reactant | cyanogen bromide | 0.081 mole, 8.546 g | N#CBr | CBrN
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 3-amino-5,8-dimethoxy[1,2,4]triazolo[4,3-c]pyrimidine | 8.516 g, yield=87.1% | NC1=NN=C2N1C(=NC=C2OC)OC | C7H9N5O2
